US07994225B2
Accumulation Assays of Pentamidine Analogs
Efflux pump inhibitory activity of propamidine, dibromopropamidine, and hexamidine was confirmed in Leu-Nap accumulation assays. The uptake of Leu-Nap (100 μg/ml) by PAM1723 (FIGS. 10A, C, and E) or PAM1626 (FIGS. 10B, D, and F) cells was studied in the presence of various concentrations of propamidine (0 μg/ml to 160 μg/ml), dibromopropamidine (0 to μg/ml to 40 μg/ml), and hexamidine (0 μg/ml to 40 μg/ml), respectively. All three compounds were capable of completely inhibiting the MexAB-OprM-mediated efflux of Leu-Nap from the strain overexpressing this pump. The rate of Leu-NAp uptake into PAM1626 and PAM1723 in the presence of 160 μg/ml propamidine, 20 μg/ml of dibromoproapmidine, and 20 μg/ml of hexamidine was the same.

reactant | propamidine | C1=CC(=CC=C1C(=N)N)OCCCOC=2C=CC(=CC2)C(=N)N | C17H20N4O2
reactant | dibromopropamidine | C1=CC(=C(C=C1C(=N)N)Br)OCCCOC2=C(C=C(C=C2)C(=N)N)Br | C17H18Br2N4O2
reactant | hexamidine | C1=CC(=CC=C1C(=N)N)OCCCCCCOC=2C=CC(=CC2)C(=N)N | C20H26N4O2
solvent | Leu | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
product | Pentamidine | C1=CC(=CC=C1C(=N)N)OCCCCCOC=2C=CC(=CC2)C(=N)N | C19H24N4O2
